US06495546B1
Under nitrogen, a solution of N-benzyl-(3-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (2.0 g) in tetrahydrofuran (20 ml) was added di-tert-butyl dicarbonate (1.4 g) at 5° C., and the solution was stirred at room temperature for 2.5 hours. The resulting solution was evaporated in vacuo. The residue was chromatographed (hexane-ethyl acetate) over silica gel to afford [8-(N-benzyl-tert-butoxycarbonylamino)-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester (2.58 g).

reactant | N-benzyl-(3-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 2.0 g | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=CC(=C2)OCC(=O)OCC | C22H27NO3
reactant | di-tert-butyl dicarbonate | 1.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | [8-(N-benzyl-tert-butoxycarbonylamino)-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester | 2.58 g | C(C)OC(COC=1C=CC2=C(CC(CCC2)N(CC2=CC=CC=C2)C(=O)OC(C)(C)C)C1)=O | C27H35NO5
